US08044070B2
Production of 2-(1-cyclopentylpiperidin-4-yloxy)-5-(4-cyanophenyl)pyridine
60% sodium hydride (13 mg) and 1-cyclopentyl-4-hydroxypiperidine (60 mg) were added to a DMF solution (3 ml) of 2-fluoro-5-[4-cyanophenyl]pyridine (56 mg), and stirred at 130° C. for 7 hours. The reaction mixture was cooled to room temperature, and water was added thereto and extracted with ethyl acetate. The organic layer was washed with saturated saline solution, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified through silica gel column chromatography (C-300, chloroform:methanol=9:1) to obtain the entitled compound.

reactant | sodium hydride | 13 mg | [H-].[Na+]
reactant | 1-cyclopentyl-4-hydroxypiperidine | 60 mg | C1(CCCC1)N1CCC(CC1)O | C10H19NO
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | 2-fluoro-5-[4-cyanophenyl]pyridine | 56 mg | FC1=NC=C(C=C1)C1=CC=C(C=C1)C#N | C12H7FN2
solvent | water | O | H2O
product | 2-(1-cyclopentylpiperidin-4-yloxy)-5-(4-cyanophenyl)pyridine | C1(CCCC1)N1CCC(CC1)OC1=NC=C(C=C1)C1=CC=C(C=C1)C#N | C22H25N3O
